US07105545B2
A mixture of 2-acetoxy-2-(4-chloro-phenyl)-N-[2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethyl]-thioacetamide (compound A1.03; 0.603 g), sodium hydroxide (1.4 ml 1 n solution in water) and methanol (5 ml) is stirred for 6 hours at room temperature. Water (30 ml) is added. The reaction mixture is extracted with ethyl acetate (2×100 ml). The organic layers are washed with brine (20 ml), dried and the solvent is evaporated. 2-(4-Chloro-phenyl)-2-hydroxy-N-[2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethyl]-thioacetamide is obtained which is purified by flash-column-chromatography on silica gel using ethyl acetate/hexane, yielding a resin, 1H-NMR (300 MHz, CDCl3, δ(ppm)): 2.5(t, 1H), 2.9(t, 2H), 3.8(s, 3H), 3.85–4.05(m, 2H), 4.25 (s, 1H), 4.75(d, 2H), 5.1(s, 1H), 6.5(dd, 1H), 6.65(d, 1H), 6.9(d, 1H), 7.2(d, 2H), 7.3(d, 2H), 7.7–7.8(m, 1H).

reactant | 2-acetoxy-2-(4-chloro-phenyl)-N-[2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethyl]-thioacetamide | 0.603 g | C(C)(=O)OC(C(=S)NCCC1=CC(=C(C=C1)OCC#C)OC)C1=CC=C(C=C1)Cl | C22H22ClNO4S
reactant | sodium hydroxide | 1.4 ml | [OH-].[Na+]
reactant | methanol | 5 ml | CO | CH4O
solvent | Water | 30 ml | O | H2O
product | 2-(4-Chloro-phenyl)-2-hydroxy-N-[2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethyl]-thioacetamide | ClC1=CC=C(C=C1)C(C(=S)NCCC1=CC(=C(C=C1)OCC#C)OC)O | C20H20ClNO3S
